US09216173B2
To a solution of benzyl (2-amino-3,3,3-trifluoropropyl)carbamate oxalic acid salt (110 g, 313 mmol) in tetrahydrofuran (1500 mL) were added triethylamine (80 g, 790 mmol) and di-tert-butyl dicarbonate (140 g, 642 mmol) at ambient temperature. After 30 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified via chromatography on silica gel (1-20% ethyl acetate/petroleum ether, linear gradient) to afford benzyl tert-butyl (3,3,3-trifluoropropane-1,2-diyl)biscarbamate.

reactant | benzyl (2-amino-3,3,3-trifluoropropyl)carbamate oxalic acid salt | 313 mmol, 110 g | C(C(=O)O)(=O)O.NC(CNC(OCC1=CC=CC=C1)=O)C(F)(F)F
reactant | triethylamine | 790 mmol, 80 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 642 mmol, 140 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 1500 mL | O1CCCC1 | C4H8O
product | benzyl tert-butyl (3,3,3-trifluoropropane-1,2-diyl)biscarbamate | FC(C(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O)(F)F | C16H21F3N2O4
